### PR TITLE
[Merged by Bors] - feat: two small lemmas about ordered lists

### PR DESCRIPTION
**Pull request by dagurtomas**
We prove that in a sorted list, the `head!` is the smallest element, and that if a list is lexicographically smaller than another list, then its `head!` is smaller than or equal to that of the other.

---

These are used in Nöbeling's theorem: #6286 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Sort.lean [hunk 1]
```diff
@@ -67,6 +67,20 @@ theorem rel_of_sorted_cons {a : α} {l : List α} : Sorted r (a :: l) → ∀ b
   rel_of_pairwise_cons
 #align list.rel_of_sorted_cons List.rel_of_sorted_cons
 
+theorem rel_head!_of_sorted [Inhabited α] [Preorder α] {a : α} {l : List α} (h : Sorted (· < ·) l)
+    (ha : a ∈ l) : l.head! ≤ a := by
```
Comment (eric-wieser) [inline Mathlib/Data/List/Sort.lean:71]:
```suggestion
theorem rel_head!_of_sorted [Inhabited α] [Preorder α] {a : α} {l : List α} (h : Sorted (· < ·) l)
    (ha : a ∈ l) : l.head! ≤ a := by
```
```suggestion
theorem head!_le_of_sorted [Inhabited α] [Preorder α] {a : α} {l : List α} (h : Sorted (· < ·) l)
    (ha : a ∈ l) : l.head! ≤ a := by
```

File: Mathlib/Data/List/Sort.lean [hunk 2]
```diff
@@ -67,6 +67,20 @@ theorem rel_of_sorted_cons {a : α} {l : List α} : Sorted r (a :: l) → ∀ b
...
+  rw [← List.cons_head!_tail (List.ne_nil_of_mem ha)] at h ha
+  cases ha
+  · exact le_rfl
+  · exact le_of_lt (rel_of_sorted_cons h a (by assumption))
+
+theorem rel_head!_of_sorted' [Inhabited α] [Preorder α] {a : α} {l : List α} (h : Sorted (· > ·) l)
```
Comment (eric-wieser) [inline Mathlib/Data/List/Sort.lean:77]:
```suggestion
theorem le_head!_of_sorted' [Inhabited α] [Preorder α] {a : α} {l : List α} (h : Sorted (· > ·) l)
```

File: Mathlib/Data/List/Sort.lean [hunk 3]
```diff
@@ -67,6 +67,20 @@ theorem rel_of_sorted_cons {a : α} {l : List α} : Sorted r (a :: l) → ∀ b
...
+  cases ha
+  · exact le_rfl
+  · exact le_of_lt (rel_of_sorted_cons h a (by assumption))
+
+theorem le_head!_of_sorted [Inhabited α] [Preorder α] {a : α} {l : List α} (h : Sorted (· > ·) l)
+    (ha : a ∈ l) : a ≤ l.head! := by
+  rw [← List.cons_head!_tail (List.ne_nil_of_mem ha)] at h ha
+  cases ha
+  · exact le_rfl
+  · exact le_of_lt (rel_of_sorted_cons h a (by assumption))
```
Comment (eric-wieser) [inline Mathlib/Data/List/Sort.lean:82]: I think these would make sense to put in the `Sorted` namespace:
```suggestion
theorem Sorted.head!_le [Inhabited α] [Preorder α] {a : α} {l : List α} (h : Sorted (· < ·) l)
    (ha : a ∈ l) : l.head! ≤ a := by
  rw [← List.cons_head!_tail (List.ne_nil_of_mem ha)] at h ha
  cases ha
  · exact le_rfl
  · exact le_of_lt (rel_of_sorted_cons h a (by assumption))

theorem Sorted.le_head! [Inhabited α] [Preorder α] {a : α} {l : List α} (h : Sorted (· > ·) l)
    (ha : a ∈ l) : a ≤ l.head! := by
  rw [← List.cons_head!_tail (List.ne_nil_of_mem ha)] at h ha
  cases ha
  · exact le_rfl
  · exact le_of_lt (rel_of_sorted_cons h a (by assumption))
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
